2202-11-20 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: anoxic brain injury, chronic respiratory failure with
   trach in place, [**Last Name (un) 11179**] laceration, abdominal distension
   24 Hour Events:
   - Given low minute ventilation (both decr RR and decr TV), pt switched
   from CPAP to low level MMV overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2202-11-19**] 10:45 PM
   Other medications:
   Flowsheet Data as of  [**2202-11-20**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 80 (78 - 93) bpm
   BP: 103/70(77) {93/54(63) - 127/86(92)} mmHg
   RR: 21 (15 - 63) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    450 mL
                                                                    395 mL
   Urine:
                                                                    450 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 640 (449 - 640) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.9 L/min
   Physical Examination
   General: trach
ed on vent, easily arousable, appears awake but
   non-verbal, does not follow commands or track. No blink response to
   direct confrontation.
   HEENT: forked tongue from laceration w. granulating tissue, no
   erythema/purulent drainage noted; prominent lip smacking/teeth grinding
   Lungs: CTA anteriorly
   Cardio: RRR, no m
   Abd: + BS, PEG; mod abd distension/firmness, no TTP noted
   Extremities: [**12-4**]+ b/l LE and UE (L > R)
   Labs / Radiology
   289 K/uL
   9.8 g/dL
   81 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.8 mEq/L
   34 mg/dL
   104 mEq/L
   138 mEq/L
   32.5 %
   6.1 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
   WBC
   6.1
   Hct
   32.5
   Plt
   289
   Cr
   1.0
   Glucose
   81
   Other labs: PT / PTT / INR:17.4/35.3/1.6, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:4.8 mg/dL; Lipase 44, Alk [**Doctor Last Name **] 637, t bili 1.8, Alb 2.7, LDH
   687, AST/ALT 159/93
   Imaging: [**11-20**] CXR - worsened cardiomegaly, clear lungs, if concern for
   pericardial effusion, get echo
   [**11-20**] KUB
 no evidence of obstruction or perforation, PEG in place,
   haziness from ? ascites
   Microbiology: None new
   Assessment and Plan
 H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
   -- will check EEG to make sure tongue biting is not seizure activity
   given his h/o anoxic injury
   -- hct at baseline; recheck in am but does not need daily labs if going
   to be in house for some time
   -- contact occupational therapy re: mouth guard
   -- f/u appt with OM surgery per note ([**Hospital 3348**] Clinic [**Telephone/Fax (1) 11173**])
   -- Tylenol for comfort
   .
   #. S/P ANOXIC BRAIN INJURY:
   -- cont trach/vent; requirements stable
   -- [**Name (NI) 5055**] (unclear what on at baseline; INR slightly elevated likely from
   nutrition)
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   -- will restart tube feeds
   -- optimize bowel regimen.
   .
   #. L UE swelling
   -- Obtain L UE US to r/u DVT
   .
   #. ? Hyperkalemia
   -- will hold spironolactone for now.
   -- daily lytes
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess.
   -- CXR to assess vol status
 consider more aggressive diuresis if
   evidence of fluid overload
 none seen
   -- changed home PO dose lasix to IV (home dose is 20 mg; will give 10
   mg IV given c/f gut edema and not absorbing PO
   -- holding spironolactone for now, while monitoring K
   -- restart lasix 20mg Qday
   -- repeat CXR to assess heart size (hopefully with better inspiration)
   .
   #. Fever of Tm 101 this AM ([**11-20**]):
   -- Will obtain c. diff, b. cxr, u. cxr, sputum cxr.
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, carvedolol, lisinopril, lipitor
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, on replete with fiber at 70 cc/hr, free
   water flushes 200 ml Q6 hours --> NPO for now given abd distention
   .
   #. ACCESS: one PIV on right
   .
   #. PPX: -- [**Month/Year (2) 5055**], bowel regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: possibly back to rehab after mouth guard, evaluation
   -- will discuss case in AM  with case management in terms of placement,
   as family seems frustrated with current care at Radius

2202-11-20 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo man with CAD, MI, VT storm.  Had PEA arrest during VT ablation
   procedure, c/b anoxic brain injury. Presents with tongue laceration due
   to tongue biting.  Presents for oral appliance and possible placement
   to different rehab.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2202-11-19**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2202-11-20**] 08:00 AM
   Other medications:
   folate
   thiamine
   lisinopril
   carvedilol
   lipitor
   asa
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2202-11-20**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 79 (78 - 93) bpm
   BP: 96/62(70) {93/54(63) - 127/86(92)} mmHg
   RR: 25 (15 - 63) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 86 kg
                  Total In:
                  120 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    450 mL
                                                                    430 mL
   Urine:
                                                                    450 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 405 (405 - 640) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Not assessed, Tone: Not assessed, not
   interactive
   Labs / Radiology
   9.8 g/dL
   289 K/uL
   81 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.8 mEq/L
   34 mg/dL
   104 mEq/L
   138 mEq/L
   32.5 %
   6.1 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
   WBC
   6.1
   Hct
   32.5
   Plt
   289
   Cr
   1.0
   Glucose
   81
   Other labs: PT / PTT / INR:17.4/35.3/1.6, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   Tongue laceration:  Will get oral appliance by occupational therapy.
   Tongue biting:  Can get EEG to see if tongue biting is related to
   seizure activity.
   abdominal distension:  unlikely due to intraabdominal
   infection/obstruction as belly is soft, good BS, having BMs.
   LUE edema:  U/S to R/O DVT
   Chronic systolic heart failure:  continue PO lasix, carvedilol,
   lisonipril.  Hold off on IV lasix as BP is borderline.
   enalarged heart on CXR:  likely due to poor inspiration, no clinical
   signs of pericardia effusion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-21 08:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2202-11-20**] 10:30 AM
   2 sets
 URINE CULTURE - At [**2202-11-20**] 10:30 AM
 SPUTUM CULTURE - At [**2202-11-20**] 12:00 PM
 STOOL CULTURE - At [**2202-11-20**] 12:00 PM
 ULTRASOUND - At [**2202-11-20**] 11:15 AM
   upper extremity US
 EEG - At [**2202-11-20**] 01:45 PM
 BLOOD CULTURED - At [**2202-11-20**] 08:07 PM
 FEVER - 104.5
F - [**2202-11-21**] 02:00 AM
   - Attempting to obtain mouth guard; family bought at CVS
   - Placed on Lasix 20mg daily (home dose)
   - LUE US:  Left brachial vein thrombus with questionable minimal
   adjacent flow, new since prior exam from [**2202-9-29**]. need to f/u
   on final read and make decision on anti-coagulation
   - Pan cultured for T101
   - EEG ordered as pt not blinking to visual threat
   - Tube feeds re-started
   - T103 at 8pm, pan cultured this AM for T101. Drew another set of bcx,
   but no additional cx were drawn as <24 hrs.
   - Levo/Flagyl x7d started for aspiration pna
   - Kept spitting mouth guard out
   - Spiked to 104.5, bcx from [**11-20**] grew GPC in clusters; started on Vanc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2202-11-21**] 12:25 AM
   Levofloxacin - [**2202-11-21**] 12:43 AM
   Vancomycin - [**2202-11-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2202-11-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-21**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 39.1
C (102.3
   HR: 95 (77 - 108) bpm
   BP: 107/69(76) {96/62(67) - 150/99(112)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                    775 mL
                                                                  1,153 mL
   PO:
             TF:
                                                                    235 mL
                                                                    283 mL
   IVF:
   650 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    298 mL
   Urine:
                                                                  1,045 mL
                                                                    298 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: trach
ed, awake but non-verbal and non-interactive, does not
   follow commands or track. No blink response to direct confrontation.
   HEENT: forked tongue from laceration w. granulating tissue,
   Cardio: RRR, GIII systolic murmer at LSB and apex
   Lungs: CTA anteriorly
   Abd: + BS, PEG; mod abd distension/firmness, no TTP noted
   Extremities: 2+ b/l LE and UE (L > R)
   Labs / Radiology
   301 K/uL
   9.7 g/dL
   181 mg/dL
   1.2 mg/dL
   26 mEq/L
   5.0 mEq/L
   38 mg/dL
   103 mEq/L
   138 mEq/L
   30.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
   WBC
   6.1
   11.0
   Hct
   32.5
   30.6
   Plt
   289
   301
   Cr
   1.0
   1.2
   Glucose
   81
   181
   Other labs: PT / PTT / INR:18.1/40.2/1.6, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Imaging: [**11-20**] UE US:  Left brachial vein thrombus with questionable
   minimal flow around it, new since prior exam from [**2202-9-29**].
   Microbiology: [**2202-11-20**] 12:09 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2202-11-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
   [**2202-11-20**] 9:57 am BLOOD CULTURE      Source: Venipuncture.
      Aerobic Bottle Gram Stain (Final [**2202-11-21**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
      Anaerobic Bottle Gram Stain (Final [**2202-11-21**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
   [**11-20**] C diff neg
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # GPC Bacteremia:  High grade bacteremia with 6/6 bottles positive,
   speciation and sensitivities pending.
   - Continue Vanc
   - Daily surveillance cultures
   - Discuss further workup with EP cardiology, particularly regarding
   hardware in heart
   - Consider TTE vs TEE for ?endocarditis
   - Consider thrombus as possible source of bacteremia
   - Consider Gent if patient fails to improve or continues to spike
   .
   # Aspiration PNA:  Sputum cx c/w aspiration pna, pt noted to also have
   secretions and suspect high aspiration risk.
   - Continue Levo/Flagyl
   - CXR tomorrow
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Discuss risk vs benefit of prophylaxis vs treatment of thrombus
   - Will likely need to be anti-coagulated
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
   -- will check EEG to make sure tongue biting is not seizure activity
   given his h/o anoxic injury
   -- hct at baseline; recheck in am but does not need daily labs if going
   to be in house for some time
   -- contact occupational therapy re: mouth guard
   -- f/u appt with OM surgery per note ([**Hospital 3348**] Clinic [**Telephone/Fax (1) 11173**])
   -- Tylenol for comfort
   .
   #. S/P ANOXIC BRAIN INJURY:
   - EEG to r/o seizure given lip smacking and teeth grinding,
   non-responsiveness to visual threat; f/u results
   -- cont trach/vent; requirements stable
   -- [**Name (NI) 5055**] (unclear what on at baseline; INR slightly elevated likely from
   nutrition)
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   -- will restart tube feeds
   -- optimize bowel regimen.
   .
   #. ? Hyperkalemia
   - d/c banana flakes from tube feeds
   -- will hold spironolactone for now.
   -- daily lytes
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess.
   -- CXR to assess vol status
 consider more aggressive diuresis if
   evidence of fluid overload
 none seen
   -- changed home PO dose lasix to IV (home dose is 20 mg; will give 10
   mg IV given c/f gut edema and not absorbing PO
   -- holding spironolactone for now, while monitoring K
   -- restart lasix 20mg Qday
   -- repeat CXR to assess heart size (hopefully with better inspiration)
   .
   #. Fever of Tm 101 this AM ([**11-20**]):
   -- Will obtain c. diff, b. cxr, u. cxr, sputum cxr.
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, carvedolol, lisinopril, lipitor
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:  Tube feeds
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, on replete with fiber at 70 cc/hr, free
   water flushes 200 ml Q6 hours --> NPO for now given abd distention
   .
   #. ACCESS: one PIV on right
   .
   #. PPX: -- [**Month/Year (2) 5055**], bowel regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: possibly back to rehab after mouth guard, evaluation
   -- will discuss case in AM  with case management in terms of placement,
   as family seems frustrated with current care at Radius
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-20**] 10:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-11-21 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo man with ischemic CM and anoxic brain injury.  Admitted for
   increased biting, requiring oral appliance.  Got oral appliance.  Has
   been febrile. Blood cx with GPCs in clusters.
   24 Hour Events:
 BLOOD CULTURED - At [**2202-11-20**] 10:30 AM
   2 sets
 URINE CULTURE - At [**2202-11-20**] 10:30 AM
 ULTRASOUND - At [**2202-11-20**] 11:15 AM
   upper extremity US
 SPUTUM CULTURE - At [**2202-11-20**] 12:00 PM
 STOOL CULTURE - At [**2202-11-20**] 12:00 PM
 EEG - At [**2202-11-20**] 01:45 PM
 BLOOD CULTURED - At [**2202-11-20**] 08:07 PM
 FEVER - 104.5
F - [**2202-11-21**] 02:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2202-11-21**] 12:25 AM
   Levofloxacin - [**2202-11-21**] 12:43 AM
   Vancomycin - [**2202-11-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2202-11-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-21**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 37.6
C (99.7
   HR: 74 (74 - 108) bpm
   BP: 100/48(61) {89/47(57) - 150/99(112)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                    775 mL
                                                                  1,301 mL
   PO:
             TF:
                                                                    235 mL
                                                                    431 mL
   IVF:
   650 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    383 mL
   Urine:
                                                                  1,045 mL
                                                                    383 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    918 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   301 K/uL
   181 mg/dL
   1.2 mg/dL
   26 mEq/L
   5.0 mEq/L
   38 mg/dL
   103 mEq/L
   138 mEq/L
   30.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
   WBC
   6.1
   11.0
   Hct
   32.5
   30.6
   Plt
   289
   301
   Cr
   1.0
   1.2
   Glucose
   81
   181
   Other labs: PT / PTT / INR:18.1/40.2/1.6, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Microbiology: sputum: o/p flora
   blood cx: [**5-8**] cultures.
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   Tongue biting:  It removing oral appliance.
   GPC bacteremia:  Continue vanco.  Multiple postive blood cx.  Has
   valvular disease and ICD.  Will get echo.
   respiratory failure:  continue trach mask as tolerate
   U/E clot:  Will need anticoagulation
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-20**] 10:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-22 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2202-11-21**] 12:45 PM
 FEVER - 102.3
F - [**2202-11-21**] 08:00 AM
   -MRSA in blood
   -started lovenox for brachial vein clot
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-11-21**] 08:00 PM
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2202-11-21**] 02:00 PM
   Enoxaparin (Lovenox) - [**2202-11-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-22**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.6
C (99.6
   HR: 93 (74 - 97) bpm
   BP: 97/62(72) {89/47(57) - 125/84(93)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
                  Total In:
                                                                  2,485 mL
                                                                    580 mL
   PO:
                  TF:
                                                                  1,255 mL
                                                                    500 mL
   IVF:
                                                                    850 mL
   Blood products:
   Total out:
                                                                    978 mL
                                                                    355 mL
   Urine:
                                                                    978 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,507 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General: trach
ed, awake but non-verbal and non-interactive, does not
   follow commands or track. No blink response to visual threat.
   HEENT: forked tongue from laceration w. granulating tissue,
   Cardio: RRR, GIII systolic murmer at LSB
   Lungs: CTA anteriorly, rhoncerous upper airway sounds b/l
   Abd: + BS, PEG; abdominal distension/firmness, tympanitic, no TTP
   Extremities: 2+ b/l LE and UE (L > R)
   Labs / Radiology
   292 K/uL
   10.0 g/dL
   113 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   103 mEq/L
   137 mEq/L
   33.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
   WBC
   6.1
   11.0
   8.2
   Hct
   32.5
   30.6
   33.1
   Plt
   [**Telephone/Fax (3) 11191**]
   Cr
   1.0
   1.2
   0.9
   Glucose
   81
   181
   113
   Other labs: PT / PTT / INR:18.8/46.1/1.7, ALT / AST:76/92, Alk Phos / T
   Bili:605/1.3, Albumin:2.6 g/dL, LDH:236 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Microbiology:  RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   MRSA in bcx
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # GPC Bacteremia:  High grade bacteremia with 6/6 bottles positive,
   speciation and sensitivities pending.
   - Continue Vanc D2; f/u with ID re: course of treatment
   - Daily surveillance cultures
   - Discuss further workup with EP cardiology, particularly regarding
   hardware in heart
   - Consider TTE vs TEE for ?endocarditis
   - Consider thrombus as possible source of bacteremia
   - Consider Gent if patient fails to improve or continues to spike
   .
   # Aspiration PNA:  Sputum cx c/w aspiration pna, pt noted to also have
   secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates.
   - D/C Levo/Flagyl, D3/7; restart if status declines clinically
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Discuss risk vs benefit of prophylaxis vs treatment of thrombus
   - Currently received Lovenox for anti-coagulation; consider changing to
   SC Heparin if he will undergo procedures
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
   -- f/u EEG to make sure tongue biting is not seizure activity given his
   h/o anoxic injury
   -- hct at baseline; recheck in am but does not need daily labs if going
   to be in house for some time
   -- contact occupational therapy re: mouth guard
   -- f/u appt with OM surgery per note ([**Hospital 3348**] Clinic [**Telephone/Fax (1) 11173**])
   -- Tylenol for comfort
   - Contact [**Name (NI) 1244**] dentist for possible custom mouth guard
   .
   #. S/P ANOXIC BRAIN INJURY:
   - EEG to r/o seizure given lip smacking and teeth grinding,
   non-responsiveness to visual threat; f/u results
   -- cont trach/vent; requirements stable
   -- [**Name (NI) 5055**] (unclear what on at baseline; INR slightly elevated likely from
   nutrition)
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   -- will restart tube feeds
   -- optimize bowel regimen.
   .
   #. ? Hyperkalemia
   - d/c banana flakes from tube feeds
   -- will hold spironolactone for now.
   -- daily lytes
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess.
   -- CXR to assess vol status
 consider more aggressive diuresis if
   evidence of fluid overload
 none seen
   -- changed home PO dose lasix to IV (home dose is 20 mg; will give 10
   mg IV given c/f gut edema and not absorbing PO
   -- holding spironolactone for now, while monitoring K
   -- restart lasix 20mg Qday
   -- repeat CXR to assess heart size (hopefully with better inspiration)
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, carvedolol, lisinopril, lipitor
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:  Tube feeds
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, on replete with fiber at 70 cc/hr, free
   water flushes 200 ml Q6 hours --> NPO for now given abd distention
   .
   #. ACCESS: one PIV on right
   .
   #. PPX: -- Lovenox, [**Month/Year (2) 5055**], bowel regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: ICU care for infection
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-11-22 11:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo man with anoxic brain injury.  Has MRSA bacteremia.    Has been
   off ventilator and doing well.
   Lovenox started for UE thrombosis
   24 Hour Events:
 BLOOD CULTURED - At [**2202-11-21**] 12:45 PM
 FEVER - 102.3
F - [**2202-11-21**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Vancomycin - [**2202-11-22**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2202-11-21**] 02:00 PM
   Enoxaparin (Lovenox) - [**2202-11-22**] 09:47 AM
   Other medications:
   SSI
   thiamine
   MVI
   lipitor
   asa
   prevacide
   lasix
   flagyl
   levoflox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-22**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 97 (76 - 100) bpm
   BP: 112/79(88) {94/51(60) - 125/84(93)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                  2,485 mL
                                                                  1,120 mL
   PO:
             TF:
                                                                  1,255 mL
                                                                    780 mL
   IVF:
                                                                    850 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    978 mL
                                                                    660 mL
   Urine:
                                                                    978 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,507 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   292 K/uL
   113 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   103 mEq/L
   137 mEq/L
   33.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
   WBC
   6.1
   11.0
   8.2
   Hct
   32.5
   30.6
   33.1
   Plt
   [**Telephone/Fax (3) 11191**]
   Cr
   1.0
   1.2
   0.9
   Glucose
   81
   181
   113
   Other labs: PT / PTT / INR:18.8/46.1/1.7, ALT / AST:76/92, Alk Phos / T
   Bili:605/1.3, Albumin:2.6 g/dL, LDH:236 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   MRSA bacteremia:  Continue vanco
   no evidence of aspiration PNA, will stop Levo/flagyl.
   brachiel vein thrombosis:  on lovenox.  also has mural thrombus
   tongue laceration:  appliance is available at [**Hospital **] - will
   follow up.
   f/u on EEG to r/o seizure.
   chronic systolic heart failure
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-22**] 06:54 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-23 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID recs:
   1. Would continue vancomycin 1gm IV q12
   2. Please check vanc trough before 4th dose, goal 15-20
   3. Recommend TEE to evaluate for ICD lead endocarditis
   4. Would check GGT to verify liver source of elevated alk phos,
   consider imaging of RUQ
   5. Please check 2 sets surveillance cultures today
   - EEG [**11-20**]: abnormal portable EEG due to slowing and disorganization
   of the background rhythm. This finding is consistent with a mild to
   moderate encephalopathy. Medications, toxic/metabolic, infection, and
   anoxia are common causes. No epileptiform discharges or lectrographic
   seizures are seen during this recording.
   - No neuro recs
   - NPO after midnight for TEE in the AM.
   - Spoke with prosthodontics specialist at [**Hospital1 1244**]--[**First Name8 (NamePattern2) 241**] [**Last Name (NamePattern1) 927**]
   [**Telephone/Fax (1) 11200**], pager [**Telephone/Fax (1) 11201**]--and if family consents to having
   mouthpiece made, they will have to pay for it out of pocket ($3750) as
   the pt's insurance will likely not cover it, and also the attending
   will have to call to book the procedure, as it may require OR time.
   Discussed this with family, and they are considering more cost
   effective options, such as having his teeth pulled.
   -          Started Ativan TID prn as think there may be an anxiety
   component to pt's teeth grinding
   - TEE: +TR, no vegetations on AICD line or valves (wetread)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Vancomycin - [**2202-11-22**] 08:53 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2202-11-22**] 09:47 AM
   Lorazepam (Ativan) - [**2202-11-23**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 87 (81 - 102) bpm
   BP: 112/80(88) {95/62(68) - 118/81(97)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                  2,257 mL
                                                                     97 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                     20 mL
   IVF:
                                                                    431 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    325 mL
   Urine:
                                                                  1,240 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,017 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN
 nad, eyes open spontaneously, does not track or respond to
   commands
   CV
 rrr, III/VI SEM
   PULM - ctab
   ABD
 distended, firm
   EXTR
 trace edema; right new PICC in place
   Labs / Radiology
   292 K/uL
   9.9 g/dL
   83 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   21 mg/dL
   105 mEq/L
   139 mEq/L
   31.7 %
   7.4 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   Hct
   32.5
   30.6
   33.1
   31.7
   Plt
   [**Telephone/Fax (3) 11202**]92
   Cr
   1.0
   1.2
   0.9
   0.6
   Glucose
   81
   181
   113
   83
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:103/133, Alk Phos /
   T Bili:637/1.4, Albumin:2.6 g/dL, LDH:232 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Micro:
   Stool [**11-20**]
 negative c.diff, salmonella, campylobacter, shigella
   Last + BC = [**11-20**]; no growth yet from 20-21-22
   Imaging:
   CXR [**11-23**]:
   Globular heart
 cardiomegaly, lungs relatively clear.
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   .
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # GPC Bacteremia:  High grade bacteremia with 6/6 bottles positive,
   speciation and sensitivities pending.
   - f/u ID recs (etiology?)
   - Continue Vanc 1g q12h; trough today ok so cont this dosing
   - Daily surveillance cultures
   - Discuss further workup with EP cardiology, particularly regarding
   hardware in heart
   - TEE today
 f/u final read
   - Consider thrombus as possible source of bacteremia
   - Consider Gent if patient fails to improve or continues to spike
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates.
   - Restart levo/flagyl if status declines clinically
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Lovenox for 6 months
   - Currently receiving Lovenox for anti-coagulation; consider changing
   to SC Heparin if he will undergo procedures
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
. Improved yesterday/today.
   -- f/u with family re; dental plan and options
   -- f/u with social work
   -- f/u appt with OM surgery per note ([**Hospital 3348**] Clinic [**Telephone/Fax (1) 11173**])
   -- Tylenol for comfort
   -- f/u with prosthodontics specialist at [**Hospital1 1244**]
   -- continue ativan for anxiety component
   .
   #. S/P ANOXIC BRAIN INJURY:
   - EEG to r/o seizure given lip smacking and teeth grinding,
   non-responsiveness to visual threat; f/u results
   -- cont trach/vent; requirements stable
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today.
   -- will restart tube feeds slowly
   -- continue bowel regimen (s/p 2 BM
s today)
   -- f/u GGT
   -- RUQ u/s
   -- hepatitis serologies
   -- f/u daily LFTs
   .
   #. ? Hyperkalemia. Not hyperkalemic today.
   -- will hold spironolactone for now.
   -- daily lytes
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today not
   particularly volume overloaded.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, carvedolol, lisinopril, lipitor
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:  Tube feeds restart today
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, on replete with fiber at 70 cc/hr, free
   water flushes 200 ml Q6 hours
   .
   #. ACCESS: PICC on right placed [**11-23**]
   .
   #. PPX: -- Lovenox for 6 months started mid-[**2202-11-2**], bowel
   regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: ICU today; sort out dental issues; likely d/c to rehab
   tomorrow AM
   ICU Care
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   22 Gauge - [**2202-11-22**] 08:00 PM
   Code status: Full code

2202-11-23 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo man with anoxic brain injury post-cardiac arrest.   MRSA
   bacteremia.  TEE showed no vegetations.  EEG with no seizure activity
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Vancomycin - [**2202-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2202-11-23**] 12:16 AM
   Fentanyl - [**2202-11-23**] 09:15 AM
   Midazolam (Versed) - [**2202-11-23**] 09:20 AM
   Other medications:
   SSI
   folate
   thiamine
   MVI
   asa
   prevacid
   lasix
   lovenox
   lisinopril
   carvedilol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-23**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 97 (81 - 102) bpm
   BP: 120/84(93) {95/62(68) - 120/84(97)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                  2,257 mL
                                                                    328 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                     20 mL
   IVF:
                                                                    431 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    455 mL
   Urine:
                                                                  1,240 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,017 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   292 K/uL
   83 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   21 mg/dL
   105 mEq/L
   139 mEq/L
   31.7 %
   7.4 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   Hct
   32.5
   30.6
   33.1
   31.7
   Plt
   [**Telephone/Fax (3) 11202**]92
   Cr
   1.0
   1.2
   0.9
   0.6
   Glucose
   81
   181
   113
   83
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:103/133, Alk Phos /
   T Bili:637/1.4, Albumin:2.6 g/dL, LDH:232 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   MRSA bacteremia:  Continue vanco.  unclear source.
   Will discuss with oral specialist with [**Hospital1 1244**] about the options.  Other
   option would be to pull his teeth.
   EEG negative for seizure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2202-11-19**] 10:09 PM
   22 Gauge - [**2202-11-22**] 08:00 PM
   PICC Line - [**2202-11-23**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-24 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2202-11-23**] 09:23 AM
 BLOOD CULTURED - At [**2202-11-23**] 11:30 AM
   from PICC
   - GGT elevated
   - RUQ US pending
   - TEE:  No valvular or pacemaker associated vegetations seen. Moderate
   to severe tricuspid regurgitation (leaflets do not coapt). Severely
   depressed left ventricular systolic function.
   - CXR:   There is interval development of right perihilar opacity, and
   giving their rapid development is concerning for pulmonary edema. There
   is potentially similar opacity demonstrated in the left perihilar area.
   - SW looking into insurance coverage for mouth guard; will need to f/u
   with family re: option of pulling teeth
   - ID:  4 week course of Vancomycin (day 1=[**11-21**], d/c [**12-19**]).  At nursing
   home, should monitor Vanc troughs at least weekly, CBC/diff, BUN/Cr.
   - PICC in RA - must pull back 1.5-2.5cm and re-image with repeat CXR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Vancomycin - [**2202-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2202-11-23**] 09:15 AM
   Midazolam (Versed) - [**2202-11-23**] 09:20 AM
   Lorazepam (Ativan) - [**2202-11-23**] 06:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 105 (76 - 107) bpm
   BP: 129/84(93) {108/67(81) - 134/87(98)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.9 kg (admission): 86 kg
                  Total In:
                                                                  1,438 mL
                                                                    448 mL
   PO:
                  TF:
                                                                  1,058 mL
                                                                    448 mL
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    440 mL
   Urine:
                                                                    945 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN
 nad, eyes open spontaneously but not tracking and non-responsive.
   Chewing teeth and tongue.
   CV
 rrr, III/VI SEM
   PULM
 rhonchi b/l
   ABD
 distended, +bs
   EXTR
 trace edema b/l feet
   Labs / Radiology
   335 K/uL
   9.8 g/dL
   118 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   32.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   Glucose
   81
   181
   113
   83
   118
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:94/109, Alk Phos /
   T Bili:654/1.3, Albumin:2.5 g/dL, LDH:201 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   LFT
s approx stable; GGT 516 (signif elevated; nl = 8=61)
   Negat bld cultures [**Date range (1) 11207**] thus far.
   RUQ u/s: (wetread)
   Contract gallbladder without stones- no evidence for cholecystitis.
   Equivocal
   nodularity to hepatic contour-? possibility of chronic liver disease
   [**11-23**] CXR:
   IMPRESSION:
   1. Status post PICC line placement with the lead tracked to the upper
   right
   atrium.
   2. Cardiomegaly.
   Today
s CXR: new retrocardiac opacity, could be pneumonia
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   .
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # GPC Bacteremia:  High grade bacteremia with 6/6 bottles positive,
   speciation and sensitivities pending.
   - f/u ID recs (etiology?)
   - Continue Vanc 1g q12h; trough today ok so cont this dosing
   - Keep cardiac hardware in place for now
   - Consider thrombus as possible source of bacteremia
   - Consider Gent if patient fails to improve or continues to spike
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates. On [**11-24**], concern for aspiration pneumonia given fever,
   ?infiltrate on CXR.
   - Start zosyn for empiric coverage for pseudomonas pneumonia, D1=[**11-24**]
   for 8 day course (or 14 day course if proves to be true pseudomonas)
   - sputum culture today
   - daily CXR
   - f/u blood cultures (already cultured today)
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Lovenox for 6 months
   - Currently receiving Lovenox for anti-coagulation; consider changing
   to SC Heparin if he will undergo procedures
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
. Improved yesterday/today.
   -- f/u with family re; dental plan and options
   -- f/u with social work
   -- f/u appt with OM surgery per note ([**Hospital 3348**] Clinic [**Telephone/Fax (1) 11173**])
   -- Tylenol for comfort
   -- f/u with prosthodontics specialist at [**Hospital1 1244**] re: options
   -- continue ativan for anxiety component
   .
   #. S/P ANOXIC BRAIN INJURY:
   - EEG to r/o seizure given lip smacking and teeth grinding,
   non-responsiveness to visual threat; f/u results
   -- cont trach/vent; requirements stable
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today, stable. GGT elevated. Consider drugs versus biliary
   source.
   -- continue tube feeds slowly
   -- continue bowel regimen
   -- f/u final read RUQ u/s
   -- hepatitis serologies pending
   -- trend daily LFTs
   .
   #. ? Hyperkalemia. Not hyperkalemic today.
   -- will hold spironolactone for now.
   -- daily lytes
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday (already received extra 40mg lasix today)
   -- goal 1L negative today, with lasix later prn
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, carvedolol, lisinopril, lipitor
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, tubefeeds, on replete with fiber at 70
   cc/hr, free water flushes 200 ml Q6 hours
   .
   #. ACCESS: PICC on right placed [**11-23**]
   .
   #. PPX: -- Lovenox for 6 months started mid-[**2202-11-2**], bowel
   regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: ICU today; sort out dental issues; rehab screening currently
   (family does not want patient going back to rehab).
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-23**] 07:00 PM 60 mL/hour
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   Code status: Full code

2202-11-24 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo man with anoxic brain injury, admitted with MRSA bacteremia and
   tongue laceration.  RUQ U/S with not evidence of cholecystitis
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2202-11-23**] 09:23 AM
 BLOOD CULTURED - At [**2202-11-23**] 11:30 AM
   from PICC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2202-11-21**] 10:00 PM
   Metronidazole - [**2202-11-22**] 12:00 AM
   Vancomycin - [**2202-11-24**] 08:06 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2202-11-23**] 06:40 PM
   Furosemide (Lasix) - [**2202-11-24**] 08:31 AM
   Other medications:
   SSI
   folate
   thiamine
   MVI
   atorvastatin
   asa
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-24**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 103 (76 - 109) bpm
   BP: 148/86(99) {117/67(81) - 148/90(99)} mmHg
   RR: 27 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.9 kg (admission): 86 kg
             Total In:
                                                                  1,438 mL
                                                                  1,036 mL
   PO:
             TF:
                                                                  1,058 mL
                                                                    776 mL
   IVF:
                                                                    300 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                  1,540 mL
   Urine:
                                                                    945 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   335 K/uL
   118 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   32.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   Glucose
   81
   181
   113
   83
   118
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:94/109, Alk Phos /
   T Bili:654/1.3, Albumin:2.5 g/dL, LDH:201 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   MRSA  bacteremia:  Continue four week course total for high grade MRSA
   bactermia.
   UE thrombus/LV thrombus:  continue lovenox
   Hospital acquired PNA:  having lots of frothy pink sputum with fever
   and ?infiltrate on CXR: will add  zosyn
   will call prosthodontic specialist today.
   chronic systolic HF:  diurese 1L today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-24**] 11:08 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-25 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2202-11-24**] 01:30 PM
   - Spiking fevers on Vanc: started Cefepime/Cipro (per ID) to cover HAP
   - per prostodontist Dr. [**Name (NI) 927**], pt would need to be sedated and
   paralyzed to get mold of teeth. because it's a dental proceduce, mass
   health won't cover it. Case manager is working on finding funding.
   - family is ok for pulling teeth plan (discussed with Dr. [**Last Name (STitle) 593**]
   - OMF surgeon consulted - will see patient on [**11-25**]; he wanted CT
   sinuses/neck/teeth/down to collarbone (w/o contrast) to look for cause
   (abscess, soft tissue, etc.) for the new-onset biting; will offer rec's
   such as teeth pull, wire teeth shut, etc. (will comment on teeth and
   tongue both)
   - pt bit off a piece of tongue this AM, OMFS here and plans to pull out
   two loose teeth he believes to be the culprit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-11-24**] 08:30 PM
   Cefipime - [**2202-11-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2202-11-24**] 08:31 AM
   Lorazepam (Ativan) - [**2202-11-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 84 (77 - 120) bpm
   BP: 124/75(85) {105/62(72) - 148/96(103)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 86 kg
             Total In:
                                                                  2,388 mL
                                                                    696 mL
   PO:
             TF:
                                                                  1,651 mL
                                                                    521 mL
   IVF:
                                                                    617 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    220 mL
   Urine:
                                                                  2,155 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    233 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: T-piece  FiO2 40%
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN
 nad, unresponsive to voice or touch, moves to pain/discomfort.
   HEENT- mouth packed with gauze (is blood stained)
   CV
 rrr, III/VI SEM
   PULM
 rhonchi b/l
   ABD
 distended, +bs
   EXTR
 trace edema b/l feet
   Labs / Radiology
   347 K/uL
   9.4 g/dL
   124 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   139 mEq/L
   31.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
                            [**2202-11-25**]  03:21 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   7.5
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   31.1
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   347
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   0.7
   Glucose
   81
   181
   113
   83
   118
   124
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:85/94, Alk Phos / T
   Bili:618/1.2, Albumin:2.6 g/dL, LDH:206 IU/L, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   LFT
s stable
   Negative bld cultures [**Date range (1) 11226**] thus far.
   [**11-24**] sputum not acceptable
   [**11-25**] CT Neck prelim:
   1. Obliateration of oropharynx secondary to apposition of
   nasopharyngeal soft
   tissues, soft palate and base of tongue.
   2. Prominence of hypopharynx and nasopharyneal soft tissues.
   3. Thickening of palatine tonsils, R>L.
   4. Multiple lymph nodes noted b/l; mildly enlarged on the left side,
   likely
   reactive less likely infective.
   [**11-25**] CT Head prelim:
   1. Apparent reduction in [**Doctor Last Name **]-White differentiation, unchanged from
   priors,
   correlate clinically with mental status and ICP.
   2. No evidence of acute hemorrhage, large masses, mass effect or acute
   major
   vascular territory infarction. Unchanged lacunae in left thalamus and
   left
   cerebellar hemisphere.
   3. Circumferential mucosal thickening is once again noted in the
   sphenoid
   sinus.
   [**11-25**] CXR my read:  unchanged
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # MRSA Bacteremia:  High grade bacteremia with 6/6 bottles positive on
   [**11-20**], negative cultures since then.
   - f/u ID recs
   - Continue Vanc 1g q12h
   - Continue Cefepime/Cipro per ID recs, D1 = [**11-24**]
   - Keep cardiac hardware in place for now
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates. On [**11-24**], concern for aspiration pneumonia given fever,
   ?infiltrate on CXR.
   - Continue abx as above
   - send sputum again
   - daily CXR
   - can stop surveillance blood cx now
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Lovenox for 6 months
   - Currently receiving Lovenox for anti-coagulation; consider changing
   to SC Heparin if he will undergo procedures
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
   -- CT Neck w/o contrast indicates obliteration of oropharynx [**1-4**]
   nasopahryngeal soft tissues, etc.
   -- repeat CT Neck (now with contrast) for better look
   -- f/u OMFS recs -> currently no plans for surgery
   -- Tylenol for comfort
   -- continue ativan for anxiety component
   .
   #. S/P ANOXIC BRAIN INJURY:
   -- CT head shows stable reduction in [**Doctor Last Name 734**]-white differentiation
   -- f/u EEG results
   -- cont trach/vent; requirements stable
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today, stable. GGT elevated. Consider drugs versus biliary
   source.
   -- continue tube feeds slowly
   -- continue bowel regimen
   -- RUQ u/s showed no stone, no cholecystitis and ?nodularity to hepatic
   contour that may suggest underlying chronic liver disease
   -- hepatitis serologies pending
   -- trend daily LFTs
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday
   -- start [**12-4**] home dose of Carvedilol today
   -- goal 1L negative today, with lasix later prn
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, Lipitor
   -- start [**12-4**] of home dose of Carvedilol today
   -- continue holding home Lisinopril
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- per pt care referral form, tubefeeds, on replete with fiber at 70
   cc/hr, free water flushes 200 ml Q6 hours
   .
   #. ACCESS: PICC on right placed [**11-23**]
   .
   #. PPX: -- Lovenox for 6 months started mid-[**2202-11-2**], bowel
   regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: ICU today; sort out dental issues; rehab screening currently
   (family does not want patient going back to rehab).
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-25**] 01:25 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-11-25 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo man with anoxic brain injury.
   24 Hour Events:
 SPUTUM CULTURE - At [**2202-11-24**] 01:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2202-11-25**] 04:00 AM
   Vancomycin - [**2202-11-25**] 09:11 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2202-11-25**] 04:00 AM
   Other medications:
   SSI
   folate
   thiamine
   atorvastatin
   prevacid
   lasix
   lovenox
   vanco
   cefepime
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-25**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 98 (77 - 120) bpm
   BP: 136/89(98) {105/62(72) - 145/96(103)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 86 kg
             Total In:
                                                                  2,388 mL
                                                                  1,913 mL
   PO:
             TF:
                                                                  1,651 mL
                                                                  1,280 mL
   IVF:
                                                                    617 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    400 mL
   Urine:
                                                                  2,155 mL
                                                                    300 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    233 mL
                                                                  1,513 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   347 K/uL
   124 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   139 mEq/L
   31.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
                            [**2202-11-25**]  03:21 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   7.5
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   31.1
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   347
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   0.7
   Glucose
   81
   181
   113
   83
   118
   124
   Other labs: PT / PTT / INR:17.7/44.8/1.6, ALT / AST:85/94, Alk Phos / T
   Bili:618/1.2, Albumin:2.6 g/dL, LDH:206 IU/L, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Microbiology: negative since [**11-21**]
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   Braxism:  OMF extracted two teeth this morning which may be the
   cultprits in causing his tongue lacerations.  WIll observe to see if
   further bleeding is stopped.
   CT neck with severe edema, will get a contrast image to r/o phlegmon
   given that he had MRSA bacteremia without source.
   chronic systolic CHF:  restart his CHF meds - restart carvedilol
   MRSA bactermia:  cx are now negative
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-25**] 08:41 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2202-11-26 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt had 2 teeth pulled, these plus the piece of tongue he bit off
   yesterday morning were sent to path. did not hear any teeth grinding
   this evening, but should check with pt's nurse.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-11-25**] 09:11 AM
   Cefipime - [**2202-11-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2202-11-25**] 08:17 PM
   Lorazepam (Ativan) - [**2202-11-26**] 01:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 89 (72 - 98) bpm
   BP: 117/77(86) {100/61(70) - 136/90(98)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 86 kg
             Total In:
                                                                  2,820 mL
                                                                    655 mL
   PO:
             TF:
                                                                  1,910 mL
                                                                    529 mL
   IVF:
                                                                    540 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    360 mL
   Urine:
                                                                  1,170 mL
                                                                    360 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN
 nad, unresponsive to voice or touch, moves to pain/discomfort.
   HEENT- mouth packed with gauze (is blood stained)
   CV
 rrr, III/VI SEM
   PULM
 rhonchi b/l
   ABD
 distended, +bs
   EXTR
 trace edema b/l feet
   Labs / Radiology
   304 K/uL
   9.3 g/dL
   119 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   15 mg/dL
   104 mEq/L
   138 mEq/L
   31.5 %
   6.4 K/uL
        [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
                            [**2202-11-25**]  03:21 AM
                            [**2202-11-25**]  03:01 PM
                            [**2202-11-26**]  04:04 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   7.5
   6.4
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   31.1
   31.3
   31.5
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   347
   304
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   0.7
   0.7
   Glucose
   81
   181
   113
   83
   118
   124
   119
   Other labs: PT / PTT / INR:15.4/42.9/1.4, ALT / AST:72/61, Alk Phos / T
   Bili:527/1.0, Albumin:2.5 g/dL, LDH:180 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   LFT
s stable
   Negative bld cultures [**Date range (1) 11226**] thus far.
   [**11-24**] sputum not acceptable
   [**11-25**] CT Neck prelim:
   1. Obliateration of oropharynx secondary to apposition of
   nasopharyngeal soft
   tissues, soft palate and base of tongue.
   2. Prominence of hypopharynx and nasopharyneal soft tissues.
   3. Thickening of palatine tonsils, R>L.
   4. Multiple lymph nodes noted b/l; mildly enlarged on the left side,
   likely
   reactive less likely infective.
   [**11-25**] CT Head prelim:
   1. Apparent reduction in [**Doctor Last Name **]-White differentiation, unchanged from
   priors,
   correlate clinically with mental status and ICP.
   2. No evidence of acute hemorrhage, large masses, mass effect or acute
   major
   vascular territory infarction. Unchanged lacunae in left thalamus and
   left
   cerebellar hemisphere.
   3. Circumferential mucosal thickening is once again noted in the
   sphenoid
   sinus.
   [**11-25**] CXR my read:  unchanged
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue.  Awaiting mouth guard from
   occupational health. Pt also presents with abdominal distension and L
   UE swelling, although no pain to palpation.
   .
   # MRSA Bacteremia:  High grade bacteremia with 6/6 bottles positive on
   [**11-20**], negative cultures since then.
   - f/u ID recs
   - Continue Vanc 1g q12h
   - Continue Cefepime/Cipro per ID recs, D1 = [**11-24**]
   - Keep cardiac hardware in place for now
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates. On [**11-24**], concern for aspiration pneumonia given fever,
   ?infiltrate on CXR.
   - Continue abx as above
   - send sputum again
   - daily CXR
   - can stop surveillance blood cx now
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - Lovenox for 6 months
   - Currently receiving Lovenox for anti-coagulation; consider changing
   to SC Heparin if he will undergo procedures
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
   -- CT Neck w/o contrast indicates obliteration of oropharynx [**1-4**]
   nasopahryngeal soft tissues, etc.
   -- repeat CT Neck (now with contrast) for better look
   -- f/u OMFS recs -> currently no plans for surgery
   -- Tylenol for comfort
   -- continue ativan for anxiety component
   .
   #. S/P ANOXIC BRAIN INJURY:
   -- CT head shows stable reduction in [**Doctor Last Name 734**]-white differentiation
   -- f/u EEG results
   -- cont trach/vent; requirements stable
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today, stable. GGT elevated. Consider drugs versus biliary
   source.
   -- continue tube feeds slowly
   -- continue bowel regimen
   -- RUQ u/s showed no stone, no cholecystitis and ?nodularity to hepatic
   contour that may suggest underlying chronic liver disease
   -- hepatitis serologies pending
   -- trend daily LFTs
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday
   -- start [**12-4**] home dose of Carvedilol today
   -- goal 1L negative today, with lasix later prn
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, Lipitor
   -- start [**12-4**] of home dose of Carvedilol today
   -- continue holding home Lisinopril
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- on tube feeds (replete with fiber at 70 cc/hr), free water flushes
   200 ml Q6 hours
   .
   #. ACCESS: PICC on right placed [**11-23**]
   .
   #. PPX: -- Lovenox for 6 months started mid-[**2202-11-2**], bowel
   regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: ICU today; sort out dental issues; rehab screening currently
   (family does not want patient going back to rehab).
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-26**] 05:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   18 Gauge - [**2202-11-25**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-11-27 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased Carvedilol to 25mg [**Hospital1 **] (home dose)
   - decreased ISS to [**Hospital1 **] checks as pt not requiring insulin
   - had a 6 point Hct drop this morning 31 -> 25, repeat Hct pnd
   - has bleeding from NGT this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-11-26**] 07:30 PM
   Cefipime - [**2202-11-27**] 04:43 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2202-11-27**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 88 (72 - 92) bpm
   BP: 119/67(80) {94/57(64) - 124/89(95)} mmHg
   RR: 26 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 86 kg
             Total In:
                                                                  2,651 mL
                                                                    727 mL
   PO:
             TF:
                                                                  1,561 mL
                                                                    548 mL
   IVF:
                                                                    740 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    300 mL
   Urine:
                                                                  1,250 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,401 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN
 nad, opens eyes spontaneously, unresponsive to voice or touch,
   moves to pain/discomfort.
   HEENT- no bleeding in mouth, tongue is forked
   CV
 rrr, III/VI SEM
   PULM
 ctab
   ABD
 distended, +bs
   EXTR
 trace edema b/l feet
   Labs / Radiology
   286 K/uL
   7.5 g/dL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   15 mg/dL
   109 mEq/L
   139 mEq/L
   25.1 %
   5.6 K/uL
         [image002.jpg]
                            [**2202-11-20**]  04:00 AM
                            [**2202-11-21**]  03:46 AM
                            [**2202-11-22**]  04:08 AM
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
                            [**2202-11-25**]  03:21 AM
                            [**2202-11-25**]  03:01 PM
                            [**2202-11-26**]  04:04 AM
                            [**2202-11-27**]  03:40 AM
   WBC
   6.1
   11.0
   8.2
   7.4
   7.7
   7.5
   6.4
   5.6
   Hct
   32.5
   30.6
   33.1
   31.7
   32.6
   31.1
   31.3
   31.5
   25.1
   Plt
   [**Telephone/Fax (3) 11202**]92
   335
   347
   304
   286
   Cr
   1.0
   1.2
   0.9
   0.6
   0.7
   0.7
   0.7
   0.6
   Glucose
   81
   181
   113
   83
   118
   124
   119
   106
   Other labs: PT / PTT / INR:15.6/42.4/1.4, ALT / AST:59/49, Alk Phos / T
   Bili:436/0.9, Albumin:2.5 g/dL, LDH:187 IU/L, Ca++:7.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.0 mg/dL
   Micro:
   MRSA growing in blood on [**11-20**]
   Negative bld cultures [**Date range (1) 11226**]
[**11-26**] sputum cx: GRAM STAIN (Final [**2202-11-26**]):
      >25 PMNs and <10 epithelial cells/100X field. No microorganisms seen. Spar
se yeast.
Imaging:
   [**11-25**] CT neck w/contrast: still prelim report:  No focus of abnormal
   enhancement or rim enhancing lesions to suggest abscess
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 .H/O [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue, found to be bacteremic with MRSA.
   .
   # GI bleed: likely [**1-4**] to oral bleeding
   - repeat Hct is stable at 27
   - has active T&S
   - contact [**Name (NI) 11248**] today to explore options of stopping the bleed,
   extracting teeth, getting a mold, etc.
   - PM Hct
   - transfuse if Hct <21
   .
   # MRSA Bacteremia:  High grade bacteremia with 6/6 bottles positive on
   [**11-20**], negative cultures since then.
   - f/u ID recs
   - continue Vanc 1g q12h (course is for 4 weeks from last neg culture on
   [**11-21**])
   - continue Cefepime/Cipro per ID recs for possible VAP, D1 = [**11-24**]
   (course is for 7 days to end on [**12-1**])
   - keep cardiac hardware in place for now, ECHO showed no endocarditis
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates. On [**11-24**], concern for aspiration pneumonia given fever,
   ?infiltrate on CXR.
   - continue abx as above
   - f/u sputum cx
   - no more daily surveillance blood cx
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - was on Lovenox (for 6 months) however in the context of new bleeding,
   will hold for now
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
.  Pt bit off some tongue on [**11-25**], [**Month/Year (2) 11248**] came by, pulled out 2 loose
   teeth that were thought to be the culprit.
   -- f/u CT Neck w/contrast final read
   -- contact [**Name (NI) 11248**] as above in context of new bleed
   -- Tylenol for comfort
   -- continue ativan for anxiety component
   .
   #. S/P ANOXIC BRAIN INJURY:
   -- CT head shows stable reduction in [**Doctor Last Name 734**]-white differentiation,
   unchanged from previous
   -- f/u EEG results
   -- cont trach/vent; requirements stable
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today, stable. GGT elevated. Consider drugs versus biliary
   source.
   -- hold TFs for now in context of blood in GI
   -- continue bowel regimen
   -- RUQ u/s showed no stone, no cholecystitis and ?nodularity to hepatic
   contour that may suggest underlying chronic liver disease
   -- Hep panel neg for HepB or C infections
   -- trend daily LFTs
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday
   -- decr Carvedilol back down to 12. 5mg [**Hospital1 **] bc of new bleeding
   -- continue holding home Lisinopril
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, Lipitor
   -- decr Carvedilol back down to 12.5mg [**Hospital1 **] bc of new bleeding
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI (decease to [**Hospital1 **] checks as pt is not requiring any
   insulin)
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- on tube feeds (replete with fiber at 70 cc/hr), free water flushes
   200 ml Q6 hours, however holding TFs for now
   .
   #. ACCESS: PICC on right placed [**11-23**]
   .
   #. PPX: -- hold anticoagulation for now, pneumoboots for DVT ppx, bowel
   regimen, home omeprazole
   .
   #. CODE: FULL
   .
   #. ICU consent: signed and in chart
   .
   #. DISPO: pending resolution of above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-11-26**] 09:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   18 Gauge - [**2202-11-25**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-11-28 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: anoxic brain injury, tongue biting/laceration, MRSA
   bacteremia
   24 Hour Events:
   - more biting and bleeding
   - Dr. [**First Name (STitle) 4319**] (OMFS) to remove all teeth tomorrow; mother/sister
   consented; anesthesia involved and consented; NPO, holding TF's,
   checking AM coags, d/c'd lovenox
   - oozing at PICC site
   Allergies: No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-11-27**] 08:00 PM
   Cefipime - [**2202-11-28**] 04:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2202-11-27**] 10:00 PM
   Pantoprazole (Protonix) - [**2202-11-28**] 12:16 AM
   Other medications:
   Flowsheet Data as of  [**2202-11-28**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 86 (82 - 106) bpm
   BP: 107/56(68) {96/49(60) - 137/86(93)} mmHg
   RR: 19 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 86 kg
             Total In:
                                                                  1,584 mL
                                                                    187 mL
   PO:
             TF:
                                                                    694 mL
   IVF:
                                                                    840 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    250 mL
   Urine:
                                                                    985 mL
                                                                    250 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GEN
 nad, opens eyes spontaneously, unresponsive to voice or touch,
   moves to intense pain/discomfort such as deep suctioning.
   HEENT- tongue is forked
   CV
 RRR, + SEM
   PULM
 CTA bilat
   ABD
 distended, +bs
   EXTR
 trace edema b/l feet
   Labs / Radiology
   348 K/uL
   7.6 g/dL
   86 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   17 mg/dL
   105 mEq/L
   138 mEq/L
   25.5 %
   7.2 K/uL
        [image002.jpg]
                            [**2202-11-23**]  03:26 AM
                            [**2202-11-24**]  02:52 AM
                            [**2202-11-25**]  03:21 AM
                            [**2202-11-25**]  03:01 PM
                            [**2202-11-26**]  04:04 AM
                            [**2202-11-27**]  03:40 AM
                            [**2202-11-27**]  07:22 AM
                            [**2202-11-27**]  12:09 PM
                            [**2202-11-27**]  05:33 PM
                            [**2202-11-28**]  02:22 AM
   WBC
   7.4
   7.7
   7.5
   6.4
   5.6
   6.4
   7.2
   7.8
   7.2
   Hct
   31.7
   32.6
   31.1
   31.3
   31.5
   25.1
   27.5
   26.9
   25.6
   25.5
   Plt
   292
   335
   347
   [**Telephone/Fax (3) 11249**]
   344
   346
   348
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.8
   Glucose
   83
   118
   124
   119
   106
   86
   Other labs: PT / PTT / INR:15.3/38.8/1.3, ALT / AST:54/42, Alk Phos / T
   Bili:458/1.1, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.6 mg/dL
   Imaging: None new
   Final read: ct neck w. contrast [**11-25**] - pending; ct head [**11-25**] - 1.
   Reduction in [**Doctor Last Name 734**]-white matter differentiation, unchanged from [**Month (only) 594**]
   [**2201**]; correlate clinically with mental status and intracranial
   pressure.
   2. Prominence of ventricles and sulci for the patient's stated age,
   likely
   related to volume loss of uncertain nature, which is unchanged since
   [**Month (only) 594**]
   [**2201**], but has progressed since CT done in [**2194**].
   3. No obvious hypodense areas identified in the interval; however, CT
   without
   contrast is less sensitive to determine infarcts, sequelae of anoxic
   injury or
   large masses. Consider MR if there is continued cocnern.
   4. Opacification of the right sphenoid sinus which may be secondary to
   prolonged intubation.
   Microbiology: [**11-26**] sputum: (Preliminary):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.  Adequate specimen.
   Assessment and Plan
   43 yoM with anoxic brain injury, s/p PEG & trach, after a PEA arrest on
   the EP table in [**9-/2202**] (pt was undergoing VT ablation); admitted with
   stable tongue lac from biting tongue, found to be bacteremic with MRSA.
   .
   # GI bleed: likely [**1-4**] to oral bleeding
   - following Q8 HCTs
   - has active T&S
   - plan for teeth extraction by OMFS today ([**11-28**])
   - transfuse if Hct <21
   .
   # MRSA Bacteremia:  High grade bacteremia with 6/6 bottles positive on
   [**11-20**], negative cultures since then.
   - f/u ID recs
   - continue Vanc 1g q12h (course is for 4 weeks from last neg culture on
   [**11-21**]), following levels at least weekly
   - continue Cefepime/Cipro per ID recs for possible VAP, D1 = [**11-24**]
   (course is for 7 days to end on [**12-1**])
   - keep cardiac hardware in place for now, ECHO showed no endocarditis
   or involvement of ICD.
   .
   # Aspiration PNA:  Resolved. Sputum cx c/w aspiration pna, pt noted to
   also have secretions and suspect high aspiration risk.  Sputum growing
   respiratory flora and GNR; however, this is not uncommon in pts with a
   trach, so will d/c antibiotics given admission CXR did not show
   infiltrates. On [**11-24**], concern for aspiration pneumonia given fever,
   ?infiltrate on CXR.
   - continue abx as above
   - f/u sputum cx
   - no more daily surveillance blood cx
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - was on Lovenox (for 6 months) however in the context of new bleeding,
   will hold for now
   - will consider restarting in AM if HCT stable.
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
.  Pt bit off some tongue on [**11-25**], OMFS came by, pulled out 2 loose
   teeth that were thought to be the culprit.
   -- f/u CT Neck w/contrast final read
   -- teeth removal as noted above
   -- Tylenol for comfort
   -- continue ativan for anxiety component
   -- will need out-pt appointment with ENT if family elects to have
   tongue fixed.
   .
   #. S/P ANOXIC BRAIN INJURY:
   -- CT head shows stable reduction in [**Doctor Last Name 734**]-white differentiation,
   unchanged from previous
   -- EEG results: abnormal portable EEG due to slowing and
   disorganization of a low voltage background rhythm. This finding is
   consistent with a mild to moderate encephalopathy. Medications,
   toxic/metabolic, infection, and anoxia are common causes. No
   epileptiform discharges or electrographic seizures are seen during this
   recording.
   -- cont trach/vent; requirements stable
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- holding spironolactone for now, while monitoring K
   -- continue lasix 20mg Qday
   -- increased Carvedilol to home dose of 25mg [**Hospital1 **]
   -- continue holding home Lisinopril, can restart tomorrow ([**11-29**])
   .
   Less Active issues
   .
   #. ABD DISTENTION: unclear why he is distended; KUB ordered from Radius
   on [**11-18**] shows no evidence of obstruction. Two BMs overnight.
   Abdominal exam very tympanitic, with gush of air when peg tube
   accessed.  Continues to be non-tender. Reassuring labs (incl LFTs and
   lipase) and KUB.  Think pt
s distension likely due to air swallowing.
   Mildly LFT
s today, stable. GGT elevated. Consider drugs versus biliary
   source.
   -- hold TFs for now in context of blood in GI
   -- continue bowel regimen
   -- RUQ u/s showed no stone, no cholecystitis and ?nodularity to hepatic
   contour that may suggest underlying chronic liver disease
   -- Hep panel neg for HepB or C infections
   -- trend daily LFTs
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, Lipitor
   -- Carvedilol and Lisinopril as above
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI (decease to [**Hospital1 **] checks as pt is not requiring any
   insulin)
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- on tube feeds (replete with fiber at 70 cc/hr), free water flushes
   200 ml Q6 hours, however holding TFs for now
   .
   #. ACCESS: PICC on right placed [**11-23**]
   #. PPX: -- hold anticoagulation for now, pneumoboots for DVT ppx, bowel
   regimen, home omeprazole
   #. CODE: FULL
   #. ICU consent: signed and in chart
   #. DISPO: pending resolution of above, goal for return to LTAC after
   teeth removal

2202-11-29 07:13:00 Physician Resident Progress Note
Chief Complaint: 43 yom with h/o anoxic brain injury [**1-4**] PEA arrest
   while on EP table in [**9-10**] admitted to [**Hospital1 **] for severe self-inflicted
   tongue laceration [**1-4**] biting.  Hospital course complicated by MRSA
   bacteremia.
   24 Hour Events:
   - Pt had teeth pulled by OMFS yesterday AM.
   - Afternoon HCT down (25->22.7), so trasfused 2U PRBCs. Post
   transfusion HCT 28.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2202-11-28**] 04:12 PM
   Vancomycin - [**2202-11-28**] 08:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-11-29**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (80 - 101) bpm
   BP: 112/73(83) {88/48(57) - 128/82(92)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.7 kg (admission): 86 kg
           Total In:
                                                                  2,622 mL
                                                                    783 mL
   PO:
           TF:
                                                                    727 mL
                                                                    486 mL
   IVF:
                                                                  1,180 mL
                                                                     72 mL
   Blood products:
                                                                    525 mL
                                                                    175 mL
   Total out:
                                                                  1,088 mL
                                                                    220 mL
   Urine:
                                                                    868 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,534 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   8.8 g/dL
   137 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   20 mg/dL
   104 mEq/L
   138 mEq/L
   28.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2202-11-26**]  04:04 AM
                            [**2202-11-27**]  03:40 AM
                            [**2202-11-27**]  07:22 AM
                            [**2202-11-27**]  12:09 PM
                            [**2202-11-27**]  05:33 PM
                            [**2202-11-28**]  02:22 AM
                            [**2202-11-28**]  10:00 AM
                            [**2202-11-28**]  11:05 AM
                            [**2202-11-28**]  05:20 PM
                            [**2202-11-29**]  03:57 AM
   WBC
   6.4
   5.6
   6.4
   7.2
   7.8
   7.2
   8.2
   Hct
   31.5
   25.1
   27.5
   26.9
   25.6
   25.5
   25.0
   22.7
   28.2
   Plt
   [**Telephone/Fax (3) 11250**]44
   346
   348
   316
   Cr
   0.7
   0.6
   0.8
   0.9
   Glucose
   119
   106
   86
   102
   137
   Other labs: PT / PTT / INR:15.6/34.5/1.4, ALT / AST:53/40, Alk Phos / T
   Bili:467/1.1, Albumin:2.6 g/dL, LDH:204 IU/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL
   Microbiology
   - [**2116-11-19**]
 negative blood Cx
   - [**11-25**]
 blood Cx pending
   - [**11-26**]
 sputum Cx
 sparse growth of yeast
   Radiology
   - no new imaging
   Assessment and Plan
   43 yom with h/o anoxic brain injury [**1-4**] PEA arrest while on EP table in
   [**9-10**] admitted to [**Hospital1 **] for severe self-inflicted tongue laceration [**1-4**]
   biting.  Hospital course complicated by MRSA bacteremia.
   .
   # GI bleed: felt to be [**1-4**] oral bleeding from tongue laceration, now
   s/p teeth extraction by OMFS and s/p transfusion 2 units PRBC
s with
   appropriate bump
   - follow up PM HCT
   - maintain active T&S
   .
   # MRSA Bacteremia:  High grade bacteremia with 6/6 bottles positive on
   [**11-20**], negative cultures since then.
   - f/u ID recs
   - continue Vanc 1g q12h (course is for 4 weeks from last neg culture on
   [**11-21**]), following levels at least weekly
   - continue Cefepime/Cipro per ID recs for possible VAP, D1 = [**11-24**]
   (course is for 7 days to end on [**12-1**])
   - keep cardiac hardware in place for now, ECHO showed no endocarditis
   or involvement of ICD.
   .
   # Aspiration PNA:  concern for aspiration pneumonia given fever, and
   possible infiltrate on CXR (retrocardiac opacity)
 most recent sputum
   culture showing only sparse yeast and negative gram stain.
   - treat for possible VAP as discussed above
   .
   #. L UE Thrombus:  LUE US showed thrombus of brachial vein.
   - was on Lovenox (for 6 months) however in the context of new bleeding,
   will hold for now
   - consider restarting today if PM HCT stable
   .
   #. TONGUE LACERATION: On talking to the patient
s sister and mother
   further, it sounds like the patient
s tongue biting has been off and on
   for the last week or two since he was on medication
to bring down his
   K
.  Pt bit off some tongue on [**11-25**] and had significant bleeding as a
   result.  Patient is now s/p complete teeth extraction.
   -- Tylenol for comfort
   -- continue ativan for anxiety component
   -- will need out-pt appointment with ENT if family elects to have
   tongue fixed.
   .
   #. S/P ANOXIC BRAIN INJURY: CT head unrevealing of any abscess, shows
   stable reduction in GW differentiation, EEG not revealing any seizure
   activity.
   -- cont trach/vent; requirements stable
   .
   #. CHF: Pt appears volume up on exam, with sig peripheral edema (off
   baseline, per pt
s family), JVD difficult to assess. Today, pink frothy
   suctioning appears CHF-like plus volume on CXR.
   -- consider increasing to lasix 20 mg [**Hospital1 **] daily for inc. diuresis
   -- continue Carvedilol home dose of 25 mg [**Hospital1 **]
   -- restart home Lisinopril dose in setting of stable K
   .
   Less Active issues
   .
   #. ABD DISTENTION: thought to be [**1-4**] air swallowing, LFT
s stable,
   unclear source of isolated AP elevation with neg. Hep serologies with
   unrevealing RUQ ultrasound.  [**Month (only) 60**] be drug induced.
   - continue bowel regimen
   .
   #. HYPERLIPIDEMIA, h/o STEMI:
   -- cont home regimen of ASA, Lipitor
   -- Carvedilol and Lisinopril as above
   .
   #. GERD: cont home omeprazole 40 mg QD
   .
   #. DIABETES:
   -- humalog SSI
   .
   #. FEN:
   -- cont home MVI, B1, folic acid
   -- on tube feeds (replete with fiber at 70 cc/hr), free water flushes
   200 ml Q6 hours, however holding TFs for now
   .
   #. ACCESS: PICC on right placed [**11-23**]
   #. PPX: -- hold anticoagulation for now, pneumoboots for DVT ppx, bowel
   regimen, home omeprazole
   #. CODE: FULL
   #. ICU consent: signed and in chart
   #. DISPO: return to rehab today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2202-11-23**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: